US07820822B2
B: 1-(2-Bromophenyl)-3,4-dihydroisoquinoline
A suspension of 50.0 g (164 mmol) of N-phenylethyl-2-bromobenzamide and 27.9 g of phosphorus pentoxide in 200 ml of xylene was heated to 100° C. and admixed dropwise with 45.6 g (492 mmol) of phosphorus oxychloride. Subsequently, the reaction mixture was heated under reflux for 2 h. After cooling to 80° C., the reaction mixture was stirred into 4000 g of ice and adjusted to pH=12 with NaOH (solid). The organic phase was removed, the aqueous phase was extracted three times with 300 ml of toluene, and the combined organic phases were washed with 500 ml of water and subsequently dried over magnesium sulfate. After the desiccant had been filtered off and the solvent had been removed, the product was obtained as a yellow oil. The yield at a purity of approx. 99.0% was 46.9 g (164 mmol), 99.9% of theory.

reactant | N-phenylethyl-2-bromobenzamide | 164 mmol, 50.0 g | C1(=CC=CC=C1)CCNC(C1=C(C=CC=C1)Br)=O | C15H14BrNO
reactant | phosphorus pentoxide | 27.9 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | phosphorus oxychloride | 492 mmol, 45.6 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | [OH-].[Na+]
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(2-Bromophenyl)-3,4-dihydroisoquinoline | BrC1=C(C=CC=C1)C1=NCCC2=CC=CC=C12 | C15H12BrN
